US08809525B2
6-(3,5-Dimethoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine (55 mg, 60%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (75 mg, 0.299 mmol) and 3,5-dimethoxyphenylboronic acid (62.5 mg, 0.344 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 0.299 mmol, 75 mg | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3,5-dimethoxyphenylboronic acid | 0.344 mmol, 62.5 mg | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
product | 6-(3,5-Dimethoxyphenyl)-5-phenyl-1,2,4-triazin-3-amine | 55 mg, 60% | COC=1C=C(C=C(C1)OC)C1=C(N=C(N=N1)N)C1=CC=CC=C1 | C17H16N4O2
